US07732461B2
(d) 3-[4-({[(1,1-Dimethylethyl)(dimethyl)silyl]oxy}methyl)-6-(methyloxy)-2-pyridinyl]-1-propanol
A solution of butyl 3-[4-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-6-(methyloxy)-2-pyridinyl]propanoate (4.76 g, 12.49 mmol) in THF (120 ml) was treated with LiAlH4 soln (1M in THF, 12.49 ml, 12.49 mmol) at −78° C. The reaction mixture was allowed warm to −20° C. and after stirring at −20° C. for 15 min, the mixture was treated with water (9 ml) and allowed to stir for 1 h before being filtered and evaporated to give a slightly impure product (3.98 g, 102%).

reactant | butyl 3-[4-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-6-(methyloxy)-2-pyridinyl]propanoate | 12.49 mmol, 4.76 g | CC(C)(C)[Si](OCC1=CC(=NC(=C1)OC)CCC(=O)OCCCC)(C)C | C20H35NO4Si
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 9 ml | O | H2O
solvent | THF | 120 ml | C1CCOC1 | C4H8O
product | 3-[4-({[(1,1-Dimethylethyl)(dimethyl)silyl]oxy}methyl)-6-(methyloxy)-2-pyridinyl]-1-propanol | 3.98 g, 102% | CC(C)(C)[Si](OCC1=CC(=NC(=C1)OC)CCCO)(C)C | C16H29NO3Si
